US06395734B1
3-[5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid
3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole (97.5 mg), 106 mg 5-bromo-2-oxindole, and 75 μL piperidine in 3 mL of ethanol were heated at 95° C. for 5 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight to give 171 mg (88%) of the title compound as an orange solid.

reactant | 3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole | 97.5 mg | C(=O)(O)CCC1=C(NC(=C1C)C=O)C | C10H13NO3
reactant | 5-bromo-2-oxindole | 106 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | piperidine | 75 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-[5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid | 171 mg, 88% | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C)CCC(=O)O)C | C18H17BrN2O3
